2129-08-10 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2129-8-9**] 12:30 PM
 BLOOD CULTURED - At [**2129-8-9**] 01:00 PM
 INVASIVE VENTILATION - START [**2129-8-9**] 01:00 PM
 BRONCHOSCOPY - At [**2129-8-9**] 01:10 PM
 MULTI LUMEN - START [**2129-8-9**] 03:14 PM
 ARTERIAL LINE - START [**2129-8-9**] 09:54 PM
   Aline placed.
 FEVER - 102.1
F - [**2129-8-9**] 04:00 PM
   Transfused 3 units PRBCs- Hct bump from 22.3 -> 26.7
   Had significant diaphoresis all night.
   Bolused 500 ml NS for low urine output with improvement.
   Heme onc consulted given concern for underlying bleeding disorder.
   Extensive workup sent.
   Renal consulted given hematuria for ? pulmonary renal syndrome,
   ?benefit of urgent steroids.  Felt that RBCs in urine were unlikely to
   represent renal involvement, making pulm/renal unlikely.   They saw
   possible acanothcytes versus crenated RBCs in the urine.
   Allergies:
   Levofloxacin
   facial swelling
   Last dose of Antibiotics:
   Cefipime - [**2129-8-9**] 08:57 PM
   Piperacillin - [**2129-8-10**] 02:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Phenylephrine - 1 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-8-10**] 04:53 AM
   Other medications:
   Pantoprazole
   Cefepime 2 g IV q 12 hour
   Versed drip/Fentanyl drip
   Levothyroxine
   Vancomycin 1250 q 12 hours
   Tylenol PRN
   Simvastatin 20 mg daily
   Zosyn 4.5 g q8 hours
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-8-10**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 35.8
C (96.5
   HR: 86 (81 - 149) bpm
   BP: 87/49(63) {87/49(63) - 151/77(167)} mmHg
   RR: 19 (17 - 41) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
    CVP: 15 (14 - 16)mmHg
   Total In:
                                                                  4,495 mL
                                                                  1,188 mL
   PO:
   TF:
                                                                     76 mL
   IVF:
                                                                  4,124 mL
                                                                    545 mL
   Blood products:
                                                                    281 mL
                                                                    567 mL
   Total out:
                                                                  1,475 mL
                                                                    265 mL
   Urine:
                                                                  1,175 mL
                                                                    265 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                  3,020 mL
                                                                    923 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 65
   PIP: 29 cmH2O
   Plateau: 27 cmH2O
   SpO2: 94%
   ABG: 7.43/36/103/22/0
   Ve: 9.5 L/min
   PaO2 / FiO2: 258
   Physical Examination
   Gen: intubated, interactive
   HEENT: PERRL, ET tube present
   CV: systolic murmur, RRR,
   Pulm: crackles bilaterally
   Abd: soft, NT, ND, bowel sounds present
   Ext: no peripheral edema
   Labs / Radiology
   390 K/uL
   9.1 g/dL
   92 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.8 mEq/L
   16 mg/dL
   103 mEq/L
   135 mEq/L
   26.7 %
   13.5 K/uL
        [image002.jpg]
                             [**2129-8-9**]  01:16 PM
                             [**2129-8-9**]  01:38 PM
                             [**2129-8-9**]  06:50 PM
                             [**2129-8-9**]  07:38 PM
                             [**2129-8-9**]  10:47 PM
                             [**2129-8-10**]  04:19 AM
                             [**2129-8-10**]  04:34 AM
   WBC
   17.4
   13.5
   Hct
   23.9
   21
   22.3
   26.7
   Plt
   397
   390
   Cr
   0.8
   0.5
   TCO2
   25
   24
   24
   25
   Glucose
   102
   113
   92
   Other labs: PT / PTT / INR:15.8/35.3/1.4, Alk Phos / T Bili:/3.2,
   Differential-Neuts:88.1 %, Lymph:9.0 %, Mono:2.1 %, Eos:0.5 %,
   D-dimer:1665 ng/mL, Fibrinogen:674 mg/dL, LDH:433 IU/L, Ca++:7.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Micro:
   BAL.  [**2129-8-9**].
GRAM STAIN (Final [**2129-8-9**]):
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      2+   (1-5 per 1000X FIELD):   SQUAMOUS EPITHELIAL CELLS.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS.
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   Pleural fluid.  [**2129-8-9**].
   GRAM STAIN (Final [**2129-8-10**]):
      3+  (5-10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   Assessment and Plan
   A/P:  Ms. [**Known lastname 731**] is a 46 yo female with h/o Hodkin's lymphoma,
   breast cancer, thyroid cancer, s/p aortic valve replacement on lovenox,
   with left sided empyema on [**Hospital 5398**] transfered to the MICU for
   respiratory distress secondary to diffuse alveolar hemorrhage +/-
   multifocal pneumonia.
   .
   1.  Respiratory failure.  Patient noted to have diffuse bleeding on
   right side following bronchoscopy yesterday.  On lovenox for mechanical
   valve, however, given that patient is having significant bleeding,
   anticoagulation with lovenox was stopped. Cause for hemoptysis remains
   unclear, but will evaluate for rheamtolgocial illnesses such as
   goodpastures, wegeners, SLE, antiphospholipid syndrome.  Alveolar
   bleeding may be secondary to superimposed infection, athough, chest CT
   abnormalities have been present for several months but is now
   worsening.   Also has history of radiation to chest, which may cause
   some bronchiectasis.   BAL positive for GNRs and GPC is concerning for
   superimposed pneumonia, so will double cover with
   vanco/zosyn/cefepime.  Currently on minimal vent support, so will hold
   off on steroids at present.
   - hold lovenox
   - wean FI02 as tolerated
   - vanco/zosyn/cefepime for pneumonia
   - heme/onc consult for etiology of pulmonary hemmorhage
   - type and screen, transfuse to Hct >25
   - consider steroids if patient decompensates, pulmonary block
   - right side down
   - ANCA, RF, [**Doctor First Name 1205**], Anti-GBM, antiphospholipid, anti-cardiolipin,
   complements, vWD, riscocetin cofactor, factor VIII level
   - f/u BAL results, serial blood cultures, fungal cultures
   - f/u DIC labs (fibrinogen, FDP, d-dimer)
   - glucan, galactomannan
   .
   2.  Hypotension.  Patient developed hypotension following intubation,
   likely secondary to medications.  However, did require neo for 12 hours
   yesterday.   Will evaluate for sepsis.  Pulmonary bleeding does not
   appear significant enough to explain hypotension.
   - transfuse PRBCs to Hct of 25
   - f/u blood, urine, bal cultures
   - send pleural fluid for cultures
   -  fent/versed for sedation
   - hold home Toprol
   .
   2.  Pleural effusion.  Patient recently treated for empyema with
   vancomycin.  No history of increased drainage from pleurex catheter.
   Given, fevers, will evaluate for ongoing or new infection, though does
   not appear increased in size on chest imaging (although it was a
   non-contrast CT).   Pleural fluid now positive for GNRs and GPC
   (previously only positive for MRSA).
   - f/u cultures from pleurex catheter
   .
   3.  Fever/ leukocytosis.  Developed leukocytosis following bronch.
   Leukocytosis improved this morning.  Undergoing evaluationg for
   infection.
   - f/u blood, bal, urine cultures
   - send pleural fluid culture
   - echo to evaluate for endocarditis
   .
   4.  Hematuria.  Patient noted to have hematuria prior to foley
   placement.  Previous urine samples have had hematuria as well.  Now
   anticoagulated with lovonex.  Was evaluated by renal who does not feel
   that she has a pulmonary renal syndrome.  However, noted to have muddy
   brown casts today with no renal failure, which may be due to
   hypoperfusion yesterday following intubation.
   - hold lovenox
   - appreciate renal recs
   .
   5.  Aortic valve replacement.  Patient developed aortic secondary to
   radiation change.  Will have to hold anticoagulation for now given
   ongoing bleeding.  Will need to re-address need for anticoagulation
   when hemoptysis is improved.
   - hold anticoagulation for now
   .
   6.  Hypothyroid.
   - continue levothyroxine supplementation
   .
   7. Hyperlipidemia.
   - continue zocor
   .
   PPx: pneumoboots, PPI, VAP precautions.
   .
   FEN: Tube feeds (nutrition contult)
   .
   FULL CODE
   Contact.  [**First Name4 (NamePattern1) 376**] [**Known lastname 731**].  Ph. [**Telephone/Fax (1) 5399**].
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2129-8-10**] 03:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2129-8-9**] 12:30 PM
   18 Gauge - [**2129-8-9**] 01:00 PM
   Multi Lumen - [**2129-8-9**] 03:14 PM
   Arterial Line - [**2129-8-9**] 09:54 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: FULL CODE
   Disposition: ICU

2129-08-11 06:19:00 Physician Resident Progress Note
Chief Complaint: hemoptysis
   24 Hour Events:
   Patient transfused 1 unit PRBCs overnight.  Hct did not bump
   appropriately (24.8 --> 24.8).  Ordered for another unit of PRBCs this
   morning.
   Patient weaned off pressors overnight
   Echo did not show endocarditis, was unchanged.
   LFTs elevated this morning.
   ANCA and [**Doctor First Name 1205**] negative.
   Seen by renal who does not feel she has a hepatopulmonary syndrome.
   They did see muddy brown casts in urine, consistent with her
   hypotension following intubation.
   Thoracic surgery is recommending bronch today.
   Patient was Afebrile.
 BLOOD CULTURED - At [**2129-8-10**] 10:31 AM
 TRANSTHORACIC ECHO - At [**2129-8-10**] 11:07 AM
 PICC LINE - STOP [**2129-8-10**] 05:01 PM
   Allergies:
   Levofloxacin
   facial swelling
   Last dose of Antibiotics:
   Cefipime - [**2129-8-10**] 08:00 PM
   Vancomycin - [**2129-8-10**] 10:00 PM
   Piperacillin - [**2129-8-11**] 12:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Other medications:
   Pantoprazole
   Cefepime 2 g IV q 12 hour
   Levothyroxine
   Vancomycin 1250 q 12 hours
   Tylenol PRN
   Simvastatin 20 mg daily
   Zosyn 4.5 g q8 hours
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-8-11**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37
C (98.6
   HR: 102 (87 - 104) bpm
   BP: 116/70(86) {87/57(68) - 143/77(100)} mmHg
   RR: 21 (3 - 26) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
    CVP: 10 (10 - 32)mmHg
   Total In:
                                                                  3,007 mL
                                                                    445 mL
   PO:
   TF:
                                                                    471 mL
                                                                    218 mL
   IVF:
                                                                  1,683 mL
                                                                    227 mL
   Blood products:
                                                                    854 mL
   Total out:
                                                                  1,130 mL
                                                                    125 mL
   Urine:
                                                                  1,130 mL
                                                                    125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,877 mL
                                                                    320 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 505 (411 - 513) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 19
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 92%
   ABG: 7.41/39/82.[**Numeric Identifier 96**]/21/0
   Ve: 8.9 L/min
   PaO2 / FiO2: 207
   Physical Examination
   Gen: intubated, interactive
   HEENT: PERRL, ET tube present
   CV: systolic murmur, RRR,
   Pulm: crackles bilaterally
   Abd: soft, NT, ND, bowel sounds present
   Ext: no peripheral edema
   Labs / Radiology
   283 K/uL
   8.7 g/dL
   90 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.4 mEq/L
   15 mg/dL
   102 mEq/L
   134 mEq/L
   24.8 %
   7.7 K/uL
        [image002.jpg]
                             [**2129-8-9**]  07:38 PM
                             [**2129-8-9**]  10:47 PM
                             [**2129-8-10**]  04:19 AM
                             [**2129-8-10**]  04:34 AM
                             [**2129-8-10**]  09:48 AM
                             [**2129-8-10**]  10:33 AM
                             [**2129-8-10**]  05:33 PM
                             [**2129-8-10**]  06:24 PM
                             [**2129-8-11**]  04:15 AM
                             [**2129-8-11**]  04:26 AM
   WBC
   13.5
   7.7
   Hct
   22.3
   26.7
   26.9
   24.8
   24.8
   Plt
   [**Telephone/Fax (3) 5425**]
   Cr
   0.5
   0.7
   TCO2
   24
   25
   25
   25
   26
   Glucose
   92
   90
   Other labs: PT / PTT / INR:14.6/31.9/1.3, ALT / AST:143/113, Alk Phos /
   T Bili:197/1.3, Differential-Neuts:85.3 %, Band:0.0 %, Lymph:10.0 %,
   Mono:1.5 %, Eos:3.1 %, D-dimer:1665 ng/mL, Fibrinogen:674 mg/dL, Lactic
   Acid:0.5 mmol/L, Albumin:3.1 g/dL, LDH:417 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Imaging: Echo.
   The left atrium is normal in size. No atrial septal defect is seen by
   2D or color Doppler. Left ventricular wall thickness, cavity size, and
   global systolic function are normal (LVEF>55%). Due to suboptimal
   technical quality, a focal wall motion abnormality cannot be fully
   excluded. There is no ventricular septal defect. Right ventricular
   chamber size and free wall motion are normal. There is abnormal septal
   motion/position. A bileaflet aortic valve prosthesis is present. The
   aortic valve prosthesis appears well seated, with normal leaflet/disc
   motion and transvalvular gradients. No masses or vegetations are seen
   on the aortic valve. No aortic regurgitation is seen. The mitral valve
   leaflets are mildly thickened. No mass or vegetation is seen on the
   mitral valve. There is severe mitral annular calcification. There is
   mild functional mitral stenosis (mean gradient 7 mmHg) due to mitral
   annular calcification. Mild to moderate ([**11-24**]+) mitral regurgitation is
   seen. [Due to acoustic shadowing, the severity of mitral regurgitation
   may be significantly UNDERestimated.] The tricuspid valve leaflets are
   mildly thickened. There is mild pulmonary artery systolic hypertension.
   There is no pericardial effusion.
   Compared with the prior study (images reviewed) of [**2129-7-5**], no
   change. If clinically indicated, a TEE would be better to exclude
   endocarditis
   BAL [**8-9**]: 7000 GNR, Cx pending
   Pleural fluid [**8-9**]: pending
   BCx: [**8-8**], [**8-9**], [**8-10**], [**8-11**] NGTD
   Assessment and Plan
   A/P:  Ms. [**Known lastname 731**] is a 46 yo female with h/o Hodkin's lymphoma,
   breast cancer, thyroid cancer, s/p aortic valve replacement on lovenox,
   with left sided empyema on [**Hospital 5398**] transfered to the MICU for
   respiratory distress secondary to diffuse alveolar hemorrhage +/-
   multifocal pneumonia.
   .
   1.  Respiratory failure.  Patient with alveolar bleeding in context of
   anticoagulation with lovenox. However, undergoing workup for other
   causes of hemoptysis including goodpastures, wegeners, SLE,
   antiphospholipid syndrome.  [**Month (only) 60**] be [**12-25**] history of radiation to chest,
   which may cause some bronchiectasis.   BAL positive for GNRs and GPC is
   concerning for superimposed pneumonia, has been on double coverage with
   vanco/zosyn/cefepime.  Currently on minimal vent support, so will hold
   off on steroids at present. s/p 5 units of PRBCs without appropriate
   bump in hct
   - bronchoscopy this AM
   - vanco/zosyn/cefepime for pneumonia (check vanc trough prior to next
   dose)
   - wean down PEEP, check ABG and see if patient ready for extubation
   - f/u heme/onc consult recs for etiology of pulmonary hemmorhage
   - type and screen, transfuse to Hct >25
   - hold lovenox
   - f/u ANCA, RF, [**Doctor First Name 1205**], Anti-GBM, antiphospholipid, anti-cardiolipin,
   complements, vWD, riscocetin cofactor, factor VIII level
   - f/u BAL results, serial blood cultures, fungal cultures)
   - f/u glucan, galactomannan
   - consider steroids if patient decompensates, pulmonary block
   .
   2 Decreased Hct: Patient with episode of bleeding into lung explaining
   some loss of blood, but still without appropriate bump in Hct and
   required 5 units of pRBCs. Concern for hemolysis or bleeding into other
   areas. Also had some hematuria s/p foley placement but no hematuria
   noted overnight
   - check hemolysis labs
   - CT torso to r/o bleed
   - guiac stools
   - follow Hct Q8hrs
   .
   3.  Hypotension.  Patient developed hypotension following intubation,
   likely secondary to medications.  Also need to watch for sepsis. Now
   weaned off pressors, but developed shock liver with elevated
   transaminitis likely [**12-25**] hypotension. ECHO negative for vegetations
   - f/u blood, urine, bal cultures
   - send pleural fluid for cultures
   - watch BP and restart home metoprolol when stable and tolerated
   .
   4.  s/p Aortic valve replacement.  Have been anticoagulation for now
   given ongoing bleeding, however, if patient is not found to be actively
   bleeding and with no other sources of bleeding, consider starting on
   heparin gtt for her valve.
   - hold anticoagulation for now but if Hct stable and Ct torso and guiac
   negative, restart heparin gtt without bolus
   .
   5.  Pleural effusion.  Patient recently treated for empyema with
   vancomycin.  No history of increased drainage from pleurex catheter.
   Given, fevers, will evaluate for ongoing or new infection, though does
   not appear increased in size on chest imaging (although it was a
   non-contrast CT).   Pleural fluid now positive for GNRs and GPC
   (previously only positive for MRSA).
   - f/u cultures from pleural catheter
   .
   6.  Hematuria.  Patient noted to have hematuria prior to foley
   placement.  No hematuria noted overnight. No hepatopulmonary syndrome.
   - hold lovenox
   - appreciate renal recs
   .
   6.  Hypothyroid.
   - continue levothyroxine supplementation
   .
   7. Hyperlipidemia.
   - continue zocor
   .
   PPx: pneumoboots, PPI, VAP precautions.
   .
   FEN: Tube feeds (nutrition consult)
   .
   FULL CODE
   Contact.  [**First Name4 (NamePattern1) 376**] [**Known lastname 731**].  Ph. [**Telephone/Fax (1) 5399**].
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2129-8-11**] 02:38 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2129-8-9**] 01:00 PM
   Multi Lumen - [**2129-8-9**] 03:14 PM
   Arterial Line - [**2129-8-9**] 09:54 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2129-08-12 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2129-8-11**] 09:27 AM
 Bronch showed no active sites
   of bleeding
 INVASIVE VENTILATION - STOP [**2129-8-11**] 05:46 PM
 Patient extubated
   successfully at 6pm
   - Transfused a total of 2U PRBCs yesterday, Hct 24->28, to 31 this
   morning.  No episodes of hemoptysis, just some blood streaked sputum
   s/p extubation
   - Ct torso showed no active bleeding into pleural space or abdomen
   - Early Am (3-5am) patient began to be more tachypneic to 30s,
   Tachycardic and hypertensive. Blood gases showed decreasing
   ventilation, so switched to high flow mask, then BIPAP. Exam and CXR
   showed increased fluid overload c/w acute pulmonary edema. Given 40mg
   IV lasix, 1mg IV morphine and ativan. CVP 10-12. Patient responded
   >2.5L diuresis and improvement of breathing, BP, and HR.
   - Patient began to tire on BIPAP so reintubated this AM at 8am
 NON-INVASIVE VENTILATION - START [**2129-8-12**] 05:40 AM
   Allergies:
   Levofloxacin
   facial swelling
   Last dose of Antibiotics:
   Piperacillin - [**2129-8-11**] 10:00 AM
   Cefipime - [**2129-8-11**] 08:11 PM
   Vancomycin - [**2129-8-11**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2129-8-12**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-8-11**] 08:00 AM
   Lorazepam (Ativan) - [**2129-8-12**] 04:58 AM
   Furosemide (Lasix) - [**2129-8-12**] 05:20 AM
   Morphine Sulfate - [**2129-8-12**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-8-12**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.2
   HR: 109 (92 - 117) bpm
   BP: 140/79(102) {93/59(76) - 188/100(134)} mmHg
   RR: 31 (15 - 37) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 14 (10 - 14)mmHg
   Total In:
                                                                  2,246 mL
                                                                    171 mL
   PO:
   TF:
                                                                    676 mL
   IVF:
                                                                  1,189 mL
                                                                    171 mL
   Blood products:
                                                                    281 mL
   Total out:
                                                                  1,970 mL
                                                                  3,430 mL
   Urine:
                                                                  1,970 mL
                                                                  3,430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    276 mL
                                                                 -3,259 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 780 (407 - 780) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 55
   PIP: 19 cmH2O
   SpO2: 97%
   ABG: 7.44/44/216/25/5
   Ve: 10.5 L/min
   PaO2 / FiO2: 432
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   332 K/uL
   10.4 g/dL
   103 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.8 mEq/L
   11 mg/dL
   104 mEq/L
   137 mEq/L
   31.3 %
   8.5 K/uL
        [image002.jpg]
                             [**2129-8-11**]  04:15 AM
                             [**2129-8-11**]  04:26 AM
                             [**2129-8-11**]  11:24 AM
                             [**2129-8-11**]  05:24 PM
                             [**2129-8-11**]  09:47 PM
                             [**2129-8-11**]  10:11 PM
                             [**2129-8-12**]  02:03 AM
                             [**2129-8-12**]  03:20 AM
                             [**2129-8-12**]  05:00 AM
                             [**2129-8-12**]  06:45 AM
   WBC
   7.7
   8.5
   Hct
   24.8
   28.5
   28.8
   31.3
   Plt
   283
   332
   Cr
   0.7
   0.6
   TCO2
   26
   25
   26
   26
   26
   31
   Glucose
   90
   103
   Other labs: PT / PTT / INR:14.1/29.0/1.2, CK / CKMB / Troponin-T:22//,
   ALT / AST:243/214, Alk Phos / T Bili:327/1.0, Differential-Neuts:85.3
   %, Band:0.0 %, Lymph:10.0 %, Mono:1.5 %, Eos:3.1 %, D-dimer:1665 ng/mL,
   Fibrinogen:674 mg/dL, Lactic Acid:0.5 mmol/L, Albumin:3.2 g/dL, LDH:454
   IU/L, Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:3.9 mg/dL
   CT torso:
   IMPRESSION: There is no evidence of any active bleeding or
   extravasation of
   contrast into the pleural space or into the abdomen. Minimal free fluid
   in
   the abdomen is of a simple fluid attenuation and is not blood. It is
   not
   bloody in nature.
   Assessment and Plan
   A/P:  Ms. [**Known lastname 731**] is a 46 yo female with h/o Hodkin's lymphoma,
   breast cancer, thyroid cancer, s/p aortic valve replacement on lovenox,
   with left sided empyema on Vanco, found to have diffuse alveolar
   hemorrhage +/- multifocal pneumonia extubated yesterday and reintubated
   this AM for respiratory failure.
   .
   1.  Respiratory failure.  Reintubated this AM after respiratory failure
   off vent for 12 hours. Likely needs time to clear infection and also to
   recover from bleeding. No evidence of new bleed by CT chest. Patient
   with alveolar bleeding in context of anticoagulation with lovenox.
   However, undergoing workup for other causes of hemoptysis including
   goodpastures, wegeners, SLE, antiphospholipid syndrome.  So far, lupus
   anticoagulant came back positive, but [**Doctor First Name 1205**], ANCA negative. Other studies
   anti GBM, anticardiolipin are all still pending. Also with superimposed
   infection with BAL positive for GNRs and coag positive staph.
     is concerning for superimposed pneumonia, has been on double coverage
   with vanco/zosyn/cefepime.  Currently on minimal vent support, so will
   hold off on steroids at present. s/p 5 units of PRBCs without
   appropriate bump in hct
   - bronchoscopy this AM
   - vanco/zosyn/cefepime for pneumonia (check vanc trough prior to next
   dose)
   - wean down PEEP, check ABG and see if patient ready for extubation
   - f/u heme/onc consult recs for etiology of pulmonary hemmorhage
   - type and screen, transfuse to Hct >25
   - hold lovenox
   - f/u ANCA, RF, [**Doctor First Name 1205**], Anti-GBM, antiphospholipid, anti-cardiolipin,
   complements, vWD, riscocetin cofactor, factor VIII level
   - f/u BAL results, serial blood cultures, fungal cultures)
   - f/u glucan, galactomannan
   - consider steroids if patient decompensates, pulmonary block
   .
   2 Decreased Hct: Patient with episode of bleeding into lung explaining
   some loss of blood, but still without appropriate bump in Hct and
   required 5 units of pRBCs. Concern for hemolysis or bleeding into other
   areas. Also had some hematuria s/p foley placement but no hematuria
   noted overnight
   - check hemolysis labs
   - CT torso to r/o bleed
   - guiac stools
   - follow Hct Q8hrs
   .
   3.  Hypotension.  Patient developed hypotension following intubation,
   likely secondary to medications.  Also need to watch for sepsis. Now
   weaned off pressors, but developed shock liver with elevated
   transaminitis likely [**12-25**] hypotension. ECHO negative for vegetations
   - f/u blood, urine, bal cultures
   - send pleural fluid for cultures
   - watch BP and restart home metoprolol when stable and tolerated
   .
   4.  s/p Aortic valve replacement.  Have been anticoagulation for now
   given ongoing bleeding, however, if patient is not found to be actively
   bleeding and with no other sources of bleeding, consider starting on
   heparin gtt for her valve.
   - hold anticoagulation for now but if Hct stable and Ct torso and guiac
   negative, restart heparin gtt without bolus
   .
   5.  Pleural effusion.  Patient recently treated for empyema with
   vancomycin.  No history of increased drainage from pleurex catheter.
   Given, fevers, will evaluate for ongoing or new infection, though does
   not appear increased in size on chest imaging (although it was a
   non-contrast CT).   Pleural fluid now positive for GNRs and GPC
   (previously only positive for MRSA).
   - f/u cultures from pleural catheter
   .
   6.  Hematuria.  Patient noted to have hematuria prior to foley
   placement.  No hematuria noted overnight. No hepatopulmonary syndrome.
   - hold lovenox
   - appreciate renal recs
   .
   6.  Hypothyroid.
   - continue levothyroxine supplementation
   .
   7. Hyperlipidemia.
   - continue zocor
   .
   PPx: pneumoboots, PPI, VAP precautions.
   .
   FEN: Tube feeds (nutrition consult)
   .
   FULL CODE
   Contact.  [**First Name4 (NamePattern1) 376**] [**Known lastname 731**].  Ph. [**Telephone/Fax (1) 5399**].
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2129-8-11**] 02:38 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2129-8-9**] 01:00 PM
   Multi Lumen - [**2129-8-9**] 03:14 PM
   Arterial Line - [**2129-8-9**] 09:54 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2129-8-9**] 01:00 PM
   Multi Lumen - [**2129-8-9**] 03:14 PM
   Arterial Line - [**2129-8-9**] 09:54 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2129-08-13 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2129-8-12**] 08:35 AM
 INVASIVE VENTILATION - START [**2129-8-12**] 08:38 AM
 INVASIVE VENTILATION - STOP [**2129-8-13**] 12:54 AM
   Heme recommended checking viral serologies.
   Patient was reintubated for respiratory distress at 8:30 AM [**8-12**].  She
   then self extubated at 1:00 AM on [**8-13**].  She did well on a
   nonrebreather overnight.
   Allergies:
   Levofloxacin
   facial swelling
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2129-8-12**] 10:00 AM
   Vancomycin - [**2129-8-12**] 07:48 PM
   Cefipime - [**2129-8-12**] 09:25 PM
   Piperacillin - [**2129-8-13**] 03:59 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-8-12**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2129-8-13**] 01:01 AM
   Other medications:
   Heparin SQ
   Acetominophen
   Calcium Gluconate sliding scale
   Insulin Sliding Scale
   Pantoprazole
   Cefepime 2 g IV q12
   Vancomycin 1250 IV q 12h
   Simvastatin 20 mg daily
   Zosyn 4.5 g IV q8
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth
   Nutritional Support: NPO
   Respiratory: Cough, Tachypnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Flowsheet Data as of  [**2129-8-13**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.6
   HR: 102 (84 - 110) bpm
   BP: 127/69(91) {85/51(62) - 154/84(111)} mmHg
   RR: 28 (14 - 36) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
    CVP: 23 (6 - 31)mmHg
   Total In:
                                                                  1,846 mL
                                                                    718 mL
   PO:
   TF:
                                                                    478 mL
                                                                     35 mL
   IVF:
                                                                  1,218 mL
                                                                    682 mL
   Blood products:
   Total out:
                                                                  4,970 mL
                                                                    270 mL
   Urine:
                                                                  4,970 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,124 mL
                                                                    448 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 604 (604 - 604) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 70%
   PIP: 32 cmH2O
   Plateau: 26 cmH2O
   SpO2: 92%
   ABG: 7.42/46/60/26/4
   Ve: 6.9 L/min
   PaO2 / FiO2: 150
   Physical Examination
   General Appearance: Well nourished, No acute distress, Anxious,
   Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Wheezes : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Oriented (to): x4,
   Movement: Purposeful, Tone: Normal
   Labs / Radiology
   305 K/uL
   9.5 g/dL
   97 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.3 mEq/L
   14 mg/dL
   101 mEq/L
   138 mEq/L
   28.3 %
   6.3 K/uL
        [image002.jpg]
                             [**2129-8-11**]  09:47 PM
                             [**2129-8-11**]  10:11 PM
                             [**2129-8-12**]  02:03 AM
                             [**2129-8-12**]  03:20 AM
                             [**2129-8-12**]  05:00 AM
                             [**2129-8-12**]  06:45 AM
                             [**2129-8-12**]  01:08 PM
                             [**2129-8-12**]  01:20 PM
                             [**2129-8-13**]  04:13 AM
                             [**2129-8-13**]  04:24 AM
   WBC
   8.5
   6.3
   Hct
   28.8
   31.3
   27.0
   28.3
   Plt
   332
   305
   Cr
   0.6
   0.6
   TCO2
   26
   26
   26
   31
   32
   31
   Glucose
   103
   97
   Other labs: PT / PTT / INR:14.7/29.4/1.3, CK / CKMB / Troponin-T:22//,
   ALT / AST:308/237, Alk Phos / T Bili:330/1.0, Differential-Neuts:85.3
   %, Band:0.0 %, Lymph:10.0 %, Mono:1.5 %, Eos:3.1 %, D-dimer:1665 ng/mL,
   Fibrinogen:674 mg/dL, Lactic Acid:0.5 mmol/L, Albumin:3.0 g/dL, LDH:418
   IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   A/P:  Ms. [**Known lastname 731**] is a 46 yo female with h/o Hodkin's lymphoma,
   breast cancer, thyroid cancer, s/p aortic valve replacement on lovenox,
   with left sided empyema on Vanco, found to have diffuse alveolar
   hemorrhage +/- multifocal pneumonia extubated yesterday and reintubated
   this AM for respiratory failure.
   .
   1.Respiratory failure.  Reintubated this AM after respiratory failure
   off vent for 12 hours. Likely needs time to clear infection and also to
   recover from bleeding. No evidence of new bleed by CT chest. Patient
   with alveolar bleeding in context of anticoagulation with lovenox.
   However, undergoing workup for other causes of hemoptysis including
   goodpastures, wegeners, SLE, antiphospholipid syndrome.  So far, lupus
   anticoagulant came back positive, but [**Doctor First Name 1205**], ANCA negative. Other studies
   anti GBM, anticardiolipin are all still pending. Also with superimposed
   infection with BAL positive for GNRs and coag positive staph.
   - continue  vanco/zosyn/cefepime for pneumonia (day#6)
   - type and screen, Q8h Hct, transfuse to Hct >25
   - f/u Anti-GBM, anti-cardiolipin, complements, vWD, riscocetin
   cofactor, factor VIII level
   - f/u BAL results, serial blood cultures, fungal cultures)
   - no role for steroids currently
   .
   2 Decreased Hct: Patient with episode of bleeding into lung explaining
   some loss of blood, s/p 7 total units of prbcs. No active bleed on CT
   chest and no hematuria.  Guiac negative
   - follow Hct Q8hrs
   - continue to hold any anticoagulation
   .
   3.  s/p Aortic valve replacement.  Patient
s INR now subtherapeutic for
   anticoagulation for her mechanical AVR. Spoke to pt
s cardiologist, Dr.
   [**Last Name (STitle) 1137**] this AM which noted that her type of mechanical AVR was lower
   risk for clot so ok to continue to hold anticoagulation while in acute
   risk for bleed
   - hold anticoagulation for now
   - follow coags
   .
   4. Transaminitis: Initially thought to be shock liver [**12-25**] hypotension.
   However, still trending upwards despite good BP over last 24 hours. No
   known h/o liver disease
   - continue to trend
   - send hepatitis serologies
   .
   5. Pleural effusions: Patient with left pigtail in. Followed by
   thoracics. Minimal serosanguinous drainage
   - per thoracics recs, start flush with 10cc saline QQ8h
   .
   6.  Hypothyroid.
   - continue levothyroxine supplementation
   .
   7. Hyperlipidemia.
   - continue zocor
   .
   PPx: pneumoboots, PPI, VAP precautions.
   .
   FEN: Restart tube feeds (nutrition consult)
   .
   FULL CODE
   Contact.  [**First Name4 (NamePattern1) 376**] [**Known lastname 731**].  Ph. [**Telephone/Fax (1) 5399**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2129-8-9**] 01:00 PM
   Multi Lumen - [**2129-8-9**] 03:14 PM
   Arterial Line - [**2129-8-9**] 09:54 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2129-08-14 10:08:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure.
   HPI:
   46F with distant Hodgkins and multiple long term complications of
   mantle XRT including valvular disease, (s/p mechanical AVR), breast and
   thyroid CA.  Admitted the MICU for hemoptysis and respiratory failure
   after left VATS (done for workup of bloody pleural effusion).  Course
   c/b left MRSA empyema, right PNA with evidence of DAH on bronch.  Now
   extubated since [**8-12**].
   24 Hour Events:
   On 3L NC this am but overall resp status quite stable.
   TBB even for LOS
   Zosyn stopped yesterday
   CBC stable
   Sputum Cx  ([**8-10**]) + for serratia senstive to ceftaz.
   Pleural fluid + for E. coli sensative to ceftaz, MRSA
   Allergies:
   Levofloxacin
   facial swelling
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2129-8-12**] 10:00 AM
   Piperacillin - [**2129-8-13**] 03:59 AM
   Cefipime - [**2129-8-14**] 08:00 AM
   Vancomycin - [**2129-8-14**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-8-14**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2129-8-14**] 08:00 AM
   Other medications:
   RISS
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-8-14**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.8
   HR: 100 (95 - 114) bpm
   BP: 136/76(100) {111/63(81) - 173/138(142)} mmHg
   RR: 16 (9 - 35) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   CVP: 17 (11 - 30)mmHg
   Total In:
                                                                  2,167 mL
                                                                    998 mL
   PO:
                                                                    670 mL
                                                                    490 mL
   TF:
                                                                     35 mL
   IVF:
                                                                  1,461 mL
                                                                    508 mL
   Blood products:
   Total out:
                                                                  3,920 mL
                                                                  1,060 mL
   Urine:
                                                                  3,890 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
                                                                     30 mL
   Balance:
                                                                 -1,753 mL
                                                                    -62 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.48/42/81.[**Numeric Identifier 607**]/29/6
   PaO2 / FiO2: 231
   Physical Examination
   GEN   RASS 0. NAD
   CV      Regular S1 S2, mechanical click
   LUNGS  Fine crackles RLL, [**Month (only) 38**] BS LLL
   Left Chest tube c/d/i- 30cc out o/n
   ABD  Soft
   EXT  no c/c/e
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.7 g/dL
   360 K/uL
   104 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.6 mEq/L
   8 mg/dL
   98 mEq/L
   137 mEq/L
   28.3 %
   6.0 K/uL
        [image002.jpg]
                             [**2129-8-12**]  01:08 PM
                             [**2129-8-12**]  01:20 PM
                             [**2129-8-13**]  04:13 AM
                             [**2129-8-13**]  04:24 AM
                             [**2129-8-13**]  09:58 AM
                             [**2129-8-13**]  12:16 PM
                             [**2129-8-13**]  06:32 PM
                             [**2129-8-13**]  06:47 PM
                             [**2129-8-14**]  03:44 AM
                             [**2129-8-14**]  06:36 AM
   WBC
   6.3
   6.0
   Hct
   27.0
   28.3
   29.7
   28.3
   Plt
   305
   360
   Cr
   0.6
   0.5
   TCO2
   32
   31
   31
   28
   34
   32
   Glucose
   97
   104
   Other labs: PT / PTT / INR:15.1/29.1/1.3, CK / CKMB / Troponin-T:22//,
   ALT / AST:600/548, Alk Phos / T Bili:323/0.9, Differential-Neuts:85.3
   %, Band:0.0 %, Lymph:10.0 %, Mono:1.5 %, Eos:3.1 %, D-dimer:1665 ng/mL,
   Fibrinogen:674 mg/dL, Lactic Acid:0.5 mmol/L, Albumin:3.0 g/dL, LDH:632
   IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR: diffusely hazy lung fields c/w layering pleural
   effusions.
   Assessment and Plan
   Doing well s/p PNA and polymicrobial empyema.
   Resp:
   1) Will conitnue existing abx.
   2) Diurese to TBB goal -500
   3) Ask thoracics about when to d/c left pigtail catheter.
   CV
   1) Restart heparin gtt to goal PTT 50-60
   GI
   1) Transaminits thought secondary to [**Male First Name (un) 5518**] liver but will f/u hepatitis
   serologies, d/c statin.
   2) Regular diet
   HEME
   1) Heparin gtt to start today for mechanical AVR
   Lines:
   1) D/C aline and foley cath.  Look for PIV.
   DISPO
   1) In MICU for now while anticoagulation is being resumed (in view of
   her prior issues with hemoptysis).
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2129-8-9**] 01:00 PM
   Multi Lumen - [**2129-8-9**] 03:14 PM
   Arterial Line - [**2129-8-10**] 08:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:
   ------ Protected Section ------
   On this day I was present with and reviewed today's note of Dr.
   [**Last Name (STitle) 5182**] for the key portion of the service provided.  I agree with the
   findings and plan of care.
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Last Name (NamePattern1) 885**], MD
   on:[**2129-8-14**] 15:55 ------

2129-08-15 06:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Heparin gtt initiated without bolus, goal PTT 50-60 with serial
   HCT
   -          Tolerating regular diet
   -          A-line discontinued
   -          Guiafenesin for cough
   Patient reports she overall feels well. She continues to have a
   non-productive cough that bothers her at times. No hemoptysis or
   pleuritic pain with deep breath. Tolerating diet well. No chest pain,
   difficulty breathing, or other concerns.
   Allergies:
   Levofloxacin
   facial swelling
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2129-8-12**] 10:00 AM
   Piperacillin - [**2129-8-13**] 03:59 AM
   Cefipime - [**2129-8-14**] 08:00 AM
   Ceftazidime - [**2129-8-14**] 07:58 PM
   Vancomycin - [**2129-8-14**] 07:59 PM
   Infusions:
   Heparin Sodium - 1,400 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-8-14**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2129-8-14**] 08:00 AM
   Furosemide (Lasix) - [**2129-8-14**] 10:30 AM
   Other medications:
   Levothyroxine, Ambien, Guaifenesin.
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-8-15**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.6
   HR: 88 (88 - 105) bpm
   BP: 113/64(75) {108/62(74) - 140/86(98)} mmHg
   RR: 21 (10 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 18 (16 - 24)mmHg
   Total In:
                                                                  2,647 mL
                                                                    163 mL
   PO:
                                                                  1,510 mL
   TF:
   IVF:
                                                                  1,137 mL
                                                                    163 mL
   Blood products:
   Total out:
                                                                  4,300 mL
                                                                    550 mL
   Urine:
                                                                  4,280 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,653 mL
                                                                   -387 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   General: Sitting up in bed, watching television, in NAD
   HEENT: NC/AT. MMM, clear oropharynx, no scleral icterus or conjunctival
   pallor
   Neck: Supple, right IJ in place, c/d/i
   Lungs: Clear on right with slightly decreased BS at bases, markedly
   decreased BS over right base, clear over right apex
   Cardiac: Mechanical heart sound at apex, no rubs, gallops.
   Abdomen: Soft, NT, ND, +BS
   Extr: Warm, well perfused, no significant edema.
   Neuro: Alert and oriented.
   Labs / Radiology
   374 K/uL
   10.3 g/dL
   105 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.4 mEq/L
   8 mg/dL
   99 mEq/L
   138 mEq/L
   30.9 %
   6.1 K/uL
        [image002.jpg]
                             [**2129-8-13**]  04:13 AM
                             [**2129-8-13**]  04:24 AM
                             [**2129-8-13**]  09:58 AM
                             [**2129-8-13**]  12:16 PM
                             [**2129-8-13**]  06:32 PM
                             [**2129-8-13**]  06:47 PM
                             [**2129-8-14**]  03:44 AM
                             [**2129-8-14**]  06:36 AM
                             [**2129-8-14**]  03:30 PM
                             [**2129-8-15**]  03:29 AM
   WBC
   6.3
   6.0
   6.1
   Hct
   28.3
   29.7
   28.3
   32.2
   30.9
   Plt
   [**Telephone/Fax (3) 5536**]
   Cr
   0.6
   0.5
   0.6
   TCO2
   31
   31
   28
   34
   32
   Glucose
   97
   104
   105
   Other labs: PT / PTT / INR:15.8/59.0/1.4, CK / CKMB / Troponin-T:22//,
   ALT / AST:549/308, Alk Phos / T Bili:283/0.7, Amylase / Lipase:68/39,
   Differential-Neuts:85.3 %, Band:0.0 %, Lymph:10.0 %, Mono:1.5 %,
   Eos:3.1 %, D-dimer:1665 ng/mL, Fibrinogen:674 mg/dL, Lactic Acid:0.5
   mmol/L, Albumin:3.4 g/dL, LDH:427 IU/L, Ca++:9.3 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.6 mg/dL
   Factor VIII pending
   vWF Ag, CoF pending
   Hepatitis seriologies pending
   ANCA negative
   dsDNA pending
   C3, C4 WNL
   Beta-2 glycoprotein [**8-12**] pending
   B-glucan 916 pending
   Anti-GBM pending
   ACA IgM and IgG WNL.
   Herpes IgG and IgM pending.
   Micro:
   [**8-9**] BAL: Serratia, pan-sensitive, Negative for PCP and legionella
   [**8-9**] Pleural fluid: E. Coli
heavy growth, MRSA
heavy growth
   [**8-10**] Urine: Yeast
   [**8-10**] Blood culture: NGTD
   [**8-10**] Catheter tip: NG final.
   [**8-10**] Sputum: Serratia
   [**8-11**] Blood culture: NGTD
   [**8-13**] Varicella IgG pending
   [**8-13**] CMV IgG, IgM pending
   [**8-13**] CMV VL pending
   Assessment and Plan
   Ms. [**Known lastname 731**] is a 46 year old female with h/o Hodgkin's lymphoma,
   breast cancer, thyroid cancer, s/p aortic valve replacement on lovenox,
   with left sided empyema on Vanco, found to have diffuse alveolar
   hemorrhage +/- multifocal pneumonia, polymicrobial empyema, doing well
   after extubation and resumption of heparin drip.
   .
1. Respiratory failure.  Patient currently doing well status post self-exubation
 over the weekend. Her prior respiratory failure secondary to pneumonia, hemopty
sis, pulmonary edema, and polymicrobial empyema, with re-intubation necessary af
ter receiving several blood products. Cause of patient
s alveolar bleeding still
 remains unclear aside from her anticoagulation (on lovenox) and pneumonia. Work
up for other causes of her DAH have has included Goodpastures, Wegeners, SLE, an
tiphospholipid syndrome.  So far, lupus anticoagulant, ACA, [**Doctor First Name 1205**], ANCA and comple
ment have been negative/within normal limits. RF, galactomannan ,GBM, VWF, Facto
r 8, are all still pending. Also with superimposed infection with BAL positive f
or Serratia Marscescens, pansensitive.  Pleural fluid positive for E. coli and M
RSA.  No further hemoptysis for >24 hours while on heparin gtt.
   - Continue  vanco /cefepime for pneumonia ( patient was on vanco for
   empyema previously), today is day#9
   - [**Hospital1 **] Hcts, transfuse to Hct >25
   - f/u pending studies as noted above.
   - no role for steroids currently
   - If patient is markedly positive, will plan to diurese with lasix,
   goal Os>Is 500 cc
 1 L, she appears fairly euvolemic on exam
   .
   2. Anemia.  Anemia remains stable.  No evidence of further blood loss
   in lungs and CT torso negative for bleeding.  Guaiac has been negative
   as well.   S/p 7 total units of prbcs. Hct currently stable, since
   re-initiation of heparin.
   - [**Hospital1 **] Hcts
   .
   3.  s/p Aortic valve replacement.  Patient
s INR now subtherapeutic for
   anticoagulation for her mechanical AVR. Team has discussed with
   patien
s cardiologist, Dr. [**Last Name (STitle) 1137**] which noted that her type of
   mechanical AVR was lower risk for clot so ok to continue to hold
   anticoagulation while in acute risk for bleed
   - Yesterday heparin gtt was resumed with goal PTT of 50-60, no bolus;
   monitor for hemoptysis
   - Following [**Hospital1 **] HCT and coag
   - Once stable on heparin gtt, will need to discuss re-initiation of
   lovenox.
   .
   4. Transaminitis: Trend improved today. Initially thought to be shock
   liver [**12-25**] hypotension. Studies sent off to evaluate for hepatitis as
   well given that LFTs appeared to still be rising over the weekend.
   - Continue to trend
   - f/u hepatitis serologies (hepatitis, CMV, Herpes, varicella all sent)
   - d/c simvastatin
   .
   5. Empyema. Patient with left pigtail in.  Fluid positive E. coli
   (sensitive to cefepime) and MRSA.  Followed by thoracics. Minimal
   serosanguinous drainage.  Now afebrile with resolved leukocytosis.
   - per thoracics recs, flush with 10cc saline QQ8h
   - continue vanco/cefepime for empyema
will need to discuss length of
   treatment plans with thoracics team, as well as when pigtail should be
   removed. Will likely  need longer term abx therapy and PICC for cont
   abx.
   .
   6.  Hypothyroid.
   - continue levothyroxine supplementation
   .
   7. Hyperlipidemia.
   - discontinue zocor
   .
   PPx: pneumoboots, PPI
   FEN: regular diet
   .
   FULL CODE
   Contact.  [**First Name4 (NamePattern1) 376**] [**Known lastname 731**].  Ph. [**Telephone/Fax (1) 5399**].
   ICU Care
   Nutrition: regular diet
   Glycemic Control:  RISS stopped
   Lines:  CVL in place, will get IR guided PICC (order placed today) and
   then d/c CVL
   Multi Lumen - [**2129-8-9**] 03:14 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer:  on PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Likely call out to floor later today if remains stable.